US08071643B2
A solution of [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-ethyl-carbamic acid tert-butyl ester+(1S,2S,3S) diastereomer (1.20 g, 2.30 mmol) in 10 ml of tetrahydrofuran and 20 ml of liquid ammonia was treated at −78° C. under an argon atmosphere with sodium (106 mg, 4.60 mmol) and stirred at −78° C. for one hour. Then solid ammonium chloride was added and the reaction mixture was warmed to room temperature, diluted with tetrahydrofuran and flushed with nitrogen. The residual mixture was filtered and concentrated under reduced pressure to yield crude [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-mercapto-cyclohexyl]-ethyl-carbamic acid tert-butyl ester+(1S,2S,3S) diastereomer (quantitative yield) which was directly used for the next step.

reactant | [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)[C@H]1[C@H]([C@@H](CCC1)SCC1=C(C=C(C=C1C)C)C)O[Si](C)(C)C(C)(C)C)=O | C29H51NO3SSi
reactant | ammonia | N | H3N
reactant | sodium | 4.60 mmol, 106 mg | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-mercapto-cyclohexyl]-ethyl-carbamic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(N(CC)[C@H]1[C@H]([C@@H](CCC1)S)O[Si](C)(C)C(C)(C)C)=O | C19H39NO3SSi
